US07179912B2
2-Nitro-5-(4-pyridin-2-yl-piperazin-1-yl)-phenylamine
A mixture of 5-chloro-2-nitrophenylamine (1.3 g, 7.0 mmol), 1-(2-pyridyl)-piperazine (3.5 g, 20 mmol), and K2CO3 (3.0 g, 22 mmol) in DMF (20 mL) was stirred at 110° C. for 48 h. The reaction mixture was cooled to room temperature and poured into water. The crude yellow solid was collected by vacuum filtration, air dried, and recrystallized from CHCl3 (0.36 g, 17%).

reactant | 5-chloro-2-nitrophenylamine | 7.0 mmol, 1.3 g | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | 1-(2-pyridyl)-piperazine | 20 mmol, 3.5 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | K2CO3 | 22 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-Nitro-5-(4-pyridin-2-yl-piperazin-1-yl)-phenylamine | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCN(CC1)C1=NC=CC=C1)N | C15H17N5O2
